US05559230
To a solution of 1-(4-aminobenzoyl)-2,3,4,5-tetrahydro-1H-benzazepine (1.06 g) in dichloromethane (80 ml) is added o-methylphenyl isocyanate (0.66 g) under ice-cooling. The mixture is stirred at room temperature for 4 hours. After completion of the reaction, the solvent is concentrated under reduced pressure and the resulting residue is purified by silica gel column chromatography (eluent; n-hexane:ethyl acetate=1:1), and recrystallized from ethyl acetate to give 1-[4-(2-methylanilinocarbonylamino)benzoyl]-2,3,4,5-tetrahydro-1H-benzazepine (0.97 g) as white powder, m.p. 182°-182.5° C.

reactant | 1-(4-aminobenzoyl)-2,3,4,5-tetrahydro-1H-benzazepine | 1.06 g | NC1=CC=C(C(=O)N2CCCCC3=C2C=CC=C3)C=C1 | C17H18N2O
reactant | o-methylphenyl isocyanate | 0.66 g | CC1=C(C=CC=C1)N=C=O | C8H7NO
solvent | dichloromethane | 80 ml | ClCCl | CH2Cl2
product | 1-[4-(2-methylanilinocarbonylamino)benzoyl]-2,3,4,5-tetrahydro-1H-benzazepine | 0.97 g | CC1=C(NC(=O)NC2=CC=C(C(=O)N3CCCCC4=C3C=CC=C4)C=C2)C=CC=C1 | C25H25N3O2
